US06855722B2
3-(5-{2-[6-(Methylamino)-2-pyridyl]ethoxy}indolyl)propanoic acid
Diisopropyl azodicarboxylate (0.19 g, 0.94 mmol) was added to a solution of 2-[6-(methylamino)-2-pyridyl]ethan-1-ol (0.10 g, 0.66 mmol), as prepared in step e of Example 5, methyl 3-(5-hydroxyindolyl)propanoate (0.10 g, 0.46 mmol), as prepared in the preceding step, and triphenylphosphine (0.24 g, 0.92 mmol) in tetrahydrofuran (5.0 mL) at 0° C. in an ice bath. After stirring at ambient temperature overnight (16 h), the reaction was concentrated and the residue was purified by flash chromatography on silica gel (20%-30% ethyl acetate in hexane) to give the title compound as a yellow oil (0.023 g, 15%). 1H-NMR (400 M Hz, CDCl3) δ 7.39 (t, J=7.3 Hz, 1H), 7.20 (d, J=8.9 Hz, 1H), 7.11 (d, J=2.3 Hz, 1H), 7.07 (d, J=3.1 Hz, 1H ), 6.87 (dd, J=2.4, 8.9 Hz, 1H), 6.56 (d, J=7.2 Hz, 1H), 6.37 (d, J=3.1 Hz, 1H), 6.24 (d, J=8.2 Hz, 1H), 4.56 (br s, 1H), 3.40 (t, J=6.9 Hz, 2H), 4.34 (t, J=7.0 Hz, 2H), 3.65 (s, 3H), 3.10 (t, J=7.0 Hz, 2H), 2.89 (d, J=4.8 Hz, 2H), 2.80 (t, J=6.9 Hz, 2H).

reactant | Diisopropyl azodicarboxylate | 0.94 mmol, 0.19 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2-[6-(methylamino)-2-pyridyl]ethan-1-ol | 0.66 mmol, 0.10 g | CNC1=CC=CC(=N1)CCO | C8H12N2O
reactant | methyl 3-(5-hydroxyindolyl)propanoate | 0.46 mmol, 0.10 g | OC=1C=C2C=C(NC2=CC1)CCC(=O)OC | C12H13NO3
reactant | triphenylphosphine | 0.92 mmol, 0.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 3-(5-{2-[6-(Methylamino)-2-pyridyl]ethoxy}indolyl)propanoic acid | 0.023 g, 15% | CNC1=CC=CC(=N1)CCOC=1C=C2C=C(NC2=CC1)CCC(=O)O | C19H21N3O3
